US08053438B2
To a round bottomed flask was added 4-methoxy-1H-benzo[d]imidazol-2(3H)-one (1.8163 g, 11.06 mmol). POCl3 (1.031 mL, 11.06 mmol) was added and the reaction was brought to reflux. Upon completion, POCL3 was evaporated off. The residue was taken up in DCM. The reaction mixture was diluted with water and saturated sodium bicarbonate and extracted with DCM. The organic extract was washed with sat. sodium bicarbonate solution, water, brine, dried with, magnesium sulfate, filtered, and concentrated to provide 2-Chloro-7-methoxy-1H-benzo[d]imidazole. [M+H]=182.9.

reactant | 4-methoxy-1H-benzo[d]imidazol-2(3H)-one | 11.06 mmol, 1.8163 g | COC1=CC=CC=2NC(NC21)=O | C8H8N2O2
reactant | POCl3 | 11.06 mmol, 1.031 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-7-methoxy-1H-benzo[d]imidazole | ClC1=NC2=C(N1)C(=CC=C2)OC | C8H7ClN2O
